US07902280B2
Synthesis of 2,6-Distyryl-p-cresol
To a one liter round-bottomed flask equipped with a stirrer, thermometer, and addition funnel was charged 151.3 grams (1.4 moles) of p-cresol. The mixture was heated to 70° C., followed by the addition of 5 μL of trifluoromethane sulfonic acid via a 100 μL syringe. Under a nitrogen blanket, 284.5 grams (2.73 moles) of styrene was placed into the funnel and then added dropwise, with stirring, over a period of three hours. During styrene addition, the pot temperature did not exceed 80° C. Stirring was continued at a pot temperature of 70° C. for a period of 1.5 hours after all the styrene had been added. The resultant styrenated p-cresol composition analyzed as follows:

reactant | p-cresol | 1.4 moles, 151.3 grams | C1=CC(=CC=C1O)C | C7H8O
reactant | trifluoromethane sulfonic acid | 5 μL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | styrene | 2.73 moles, 284.5 grams | C=CC1=CC=CC=C1 | C8H8
product | 2,6-Distyryl-p-cresol | C(=CC1=CC=CC=C1)C1=CC(=CC(=C1O)C=CC1=CC=CC=C1)C | C23H20O
